US08293744B2
Step 2: Preparation of ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate:
Ethyl 4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate (1.00 g, 4.56 mmol) and 2-chloro-5-(chloromethyl)pyridine (813 mg, 5.02 mmol, 1.1 equiv) were combined in degassed N,N-dimethylformamide and cooled to 0° C. Sodium hydride (219 mg, 5.47 mmol, 1.2 equiv) was added portionwise over 5 minutes and the mixture was stirred for an additional 1 hour at 0° C. The mixture was warmed to ambient temperature, stirred for 1 hour and poured into sodium bicarbonate (150 mL, aqueous saturated). The aqueous layer was extracted with ethyl acetate (2×150 mL) and the combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate), providing the titled compound as a white solid.

reactant | Ethyl 4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | 4.56 mmol, 1.00 g | O=C1C2=C(NN=C1C(=O)OCC)N=CC=C2 | C10H9N3O3
reactant | 2-chloro-5-(chloromethyl)pyridine | 5.02 mmol, 813 mg, 1.1 equiv | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | Sodium hydride | 5.47 mmol, 219 mg, 1.2 equiv | [H-].[Na+]
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | ClC1=CC=C(C=N1)CN1N=C(C(C2=C1N=CC=C2)=O)C(=O)OCC | C16H13ClN4O3
